US04994535
1,2-Dichloroethylene was reacted with cyclopentadiene at 175° C. in the same manner as Examples 1-7 to produce 5,6-dichloronorbornene (called "DCN" hereinafter).

reactant | 1,2-Dichloroethylene | ClC=CCl | C2H2Cl2
reactant | cyclopentadiene | C1=CC=CC1 | C5H6
product | 5,6-dichloronorbornene | ClC1C2C=CC(C1Cl)C2 | C7H8Cl2
